US04013660
3-chloro-6-{[3-(dimethylamino)propyl]amino}-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine
In the same way as described in example 1, 3-chloro-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one, phosphorous pentachloride and 3-dimethylaminopropylamine were reacted and the crude product recrystallized from acetonitrile for analysis, mp. 156°-7°.

reactant | 3-chloro-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one | ClC1=CC=C2C(=C1)NC1=C2OC2=C(N(C1=O)C)C=CC=C2 | C16H11ClN2O2
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-dimethylaminopropylamine | CN(CCCN)C | C5H14N2
product | 3-chloro-6-{[3-(dimethylamino)propyl]amino}-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine | ClC=1C=CC=2C(C1)=NC=1C2OC2=C(N(C1NCCCN(C)C)C)C=CC=C2 | C21H23ClN4O
